US03937833
With efficient stirring, 100 g (0.42 mole) of 2,7-dihydroxyanthraquinone is dissolved in 500-700 ml of about 10% potassium hydroxide solution. This solution is filtered and evaporated to dryness in a rotary evaporator. The reddish brown solid is dried in a vacuum oven at 100°C, ground to a fine powder, then redried at 100°C. To a stirred suspension of 30 g of the powdered diphenoxide, containing about 24 g (0.075 mole) of the dipotassium salt of 2,7-dihydroxyanthraquinone, in 200 ml of xylene is heated to reflux and a small amount of water collected. A solution of 2-piperidinoethyl chloride in 100 ml of xylene, prepared from 53.3 g (0.29 mole) of 2-piperidinoethyl chloride hydrochloride, is added and the resulting mixture heated to reflux for about 24 hours. The mixture is poured into about 500 ml of water, and the solid which separates at the xylene/water interface is removed by filtration, washed with hot water and dried. This major portion of the free base is recrystallized from a mixture of hot methanol and chloroform, then dissolved in chloroform and acidified to Congo Red with ethereal HCl and diluted with ether. The precipitate is suspended in boiling methanol (12-20 ml per gram) and a small volume of water is added to effect solution. This solution is filtered, reduced about 1/4 in volume, diluted with additional methanol and chilled. The recrystallized dihydrochloride is filtered and dried in a vacuum oven at 100°C to give 2,7-bis(2-piperidinoethoxy)anthraquinone dihydrochloride hemihydrate, M.P. 275°-277°C.

reactant | 2,7-dihydroxyanthraquinone | 0.42 mole, 100 g | OC1=CC=2C(C3=CC(=CC=C3C(C2C=C1)=O)O)=O | C14H8O4
reactant | 2-piperidinoethyl chloride | N1(CCCCC1)CCCl | C7H14ClN
reactant | 2-piperidinoethyl chloride hydrochloride | 0.29 mole, 53.3 g | Cl.N1(CCCCC1)CCCl
reactant | water | about 500 ml | O | H2O
solvent | potassium hydroxide | 500-700 ml | [OH-].[K+]
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,7-bis(2-piperidinoethoxy)anthraquinone dihydrochloride hemihydrate | O.Cl.Cl.N1(CCCCC1)CCOC1=CC=2C(C3=CC(=CC=C3C(C2C=C1)=O)OCCN1CCCCC1)=O.N1(CCCCC1)CCOC1=CC=2C(C3=CC(=CC=C3C(C2C=C1)=O)OCCN1CCCCC1)=O.Cl.Cl | InChI=1S/2C28H34N2O4.4ClH.H2O/c2*31-27-23-9-7-21(33-17-15-29-11-3-1-4-12-29)19-25(23)28(32)26-20-22(8-10-24(26)27)34-18-16-30-13-5-2-6-14-30;;;;;/h2*7-10,19-20H,1-6,11-18H2;4*1H;1H2
